US07166629B2
39 μl of phenyl isocyanate are added to a solution of 102.2 mg of 3-amino-5-phenyl-6-chloro-1-[(2-trimethylsilylethoxy)methyl]indazole in 2.5 cm3 of tetrahydrofuran. The reaction medium is stirred at ambient temperature for 24 hours and is then evaporated. Purification of the crude product by chromatography on silica (eluant: methylene chloride/acetone (98/2, v/v)) makes it possible to obtain 122.5 mg of 1-[6-chloro-5-phenyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazol-3-yl]-3-phenylurea (colorless solid).

reactant | phenyl isocyanate | 39 μl | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3-amino-5-phenyl-6-chloro-1-[(2-trimethylsilylethoxy)methyl]indazole | 102.2 mg | NC1=NN(C2=CC(=C(C=C12)C1=CC=CC=C1)Cl)COCC[Si](C)(C)C | C19H24ClN3OSi
solvent | tetrahydrofuran | 2.5 cm3 | O1CCCC1 | C4H8O
product | 1-[6-chloro-5-phenyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazol-3-yl]-3-phenylurea | 122.5 mg | ClC1=C(C=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(=O)NC1=CC=CC=C1)C1=CC=CC=C1 | C26H29ClN4O2Si
